US04129700
1,3-Dimethyl-3-(t-butylperoxy)butyl isopropyl carbonate (C-VI)
A four-necked 500 ml. round-bottomed flask was equipped with a mechanical stirrer, reflux condenser surmounted by calcium chloride drying tube, addition funnel and thermometer. A solution of 19 g. (0.1 mole) 1,3-dimethyl-3-(t-butylperoxy)butyl alcohol and 13.3 g (slightly over 0.1 mole) quinoline in 250 ml. pentane was placed in the flask which was placed in a water bath at 221/2 ° C. Then 12.3 g (0.1 mole) isopropyl chloroformate was added dropwise over 5 minutes; the temperature did not rise over 23° C. Reaction was not complete after 3 days. Another 3 g. of quinoline was added, and the reaction was completed after another 3 days as indicated by the fact that no further precipitate of quinoline hydrochloride formed when an aliquot of clean pentane solution was withdrawn from the reaction mixture and allowed to stand for 15 minutes. The quinoline hydrochloride was filtered off and washed with 25 ml pentane which was added to the pentane solution. This solution was then successively washed with 25 ml. of 7% hydrochloric acid, two 50 ml. portions of water, and finally dried over sodium sulfate. After removal of drying agent and pentane, a yield of 23.8 g. (86.4%) of material found to be 1,3-dimethyl-3-(t-butylperoxy)butyl isopropyl carbonate by infrared analysis, was obtained.

reactant | 1,3-dimethyl-3-(t-butylperoxy)butyl alcohol | 0.1 mole | CC(CC(C)(OOC(C)(C)C)C)O | C10H22O3
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | isopropyl chloroformate | 0.1 mole, 12.3 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | quinoline hydrochloride | Cl.N1=CC=CC2=CC=CC=C12
solvent | pentane | CCCCC | C5H12
product | 1,3-Dimethyl-3-(t-butylperoxy)butyl isopropyl carbonate | C(OC(CC(C)(OOC(C)(C)C)C)C)(OC(C)C)=O | C14H28O5
